US06706709B2
5-Bromo-3-[5-(2-diethylamino-ethoxy)-1H-indol-2-ylmethylene]-1,3-dihydro-indol-2-one
A mixture of 5-bromo-2-oxindole (41 mg, 0.2 mmol), 5-(2-diethylamino-ethoxy)-1H-indole-2-carbaldehyde (50 mg, 0.2 mmol) and piperidine (0.1 mL) in ethanol (1 mL) was heated at 100° C. for 2 hours. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 60 mg (66%) of the title compound.

reactant | 5-bromo-2-oxindole | 0.2 mmol, 41 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 5-(2-diethylamino-ethoxy)-1H-indole-2-carbaldehyde | 0.2 mmol, 50 mg | C(C)N(CCOC=1C=C2C=C(NC2=CC1)C=O)CC | C15H20N2O2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 5-Bromo-3-[5-(2-diethylamino-ethoxy)-1H-indol-2-ylmethylene]-1,3-dihydro-indol-2-one | 60 mg, 66% | BrC=1C=C2C(C(NC2=CC1)=O)=CC=1NC2=CC=C(C=C2C1)OCCN(CC)CC | C23H24BrN3O2
